US04252963
240.0 Parts of N'-benzyl-N-phenylthiourea are added, while stirring, over a period of 90 minutes to 334.6 parts of thionyl chloride of approximately 65° C. The reaction mixture is then refluxed (65° to 70° C.) for 5 hours while stirring. The cyclization melt obtained is hydrolyzed with 3,200 parts of water analogously to Example 53 and further treated as described in said Example. 221.5 Parts (92.3% of the theory) of 2-benzylamino-benzthiazole melting at 159° C. are obtained.

reactant | N'-benzyl-N-phenylthiourea | C(C1=CC=CC=C1)NC(NC1=CC=CC=C1)=S | C14H14N2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | water | O | H2O
product | 2-benzylamino-benzthiazole | C(C1=CC=CC=C1)NC=1SC2=C(N1)C=CC=C2 | C14H12N2S
